US07084277B2
Cis-(1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine hydrochloride salt
The final salt formation was performed by charging 1.5 grams cis-(1-benzyl-4-methyl-piperidin-3-yl)-methyl-amine (1 equiv., 5.15 mmol) and 4.5 ml ethanol (3 volumes) to a reactor at 0° C. To the 0° C. pot, was charged 0.93 ml 36% HCl (0.625 volumes) so that the temperature stayed below 10° C. Next 3 mis ethanol (2 volumes) were concentrated from the reaction. To the reaction was charged 7.5 mls ethyl acetate (5 volumes), the reaction was stirred for 5 minutes and then 6 mls ethyl acetate (4 volumes) were removed in vacuo. 7.5 mls ethyl acetate (5 volumes) were again charged and the concentration was again performed. Next, 4.5 mls acetone (3 volumes) were added and the reaction was slowly cooled to 0° C. in order to afford white solids. (37.5% yield). 1H NMR: δ7.78-7.76 (2 H, d, J=8.0 Hz), 7.29-7.18 (5 H, m, aromatic protons), 5.55 (1 H, s), 3.45-3.41 (1 H, d, J=13.2 Hz), 3.39-3.36 (1 H, d, J=13.2 Hz), 2.79 (1 H, brs), 2.63 (1 H, brs), 2.45 (3 H, s), 2.30 (2 H, s), 2.25-2.05 (1H, m), 1.76 (1 H, brs), 1.40-1.39 (2 H, m), 0.875-0.845 (3 H, d, J=12).

reactant | cis-(1-benzyl-4-methyl-piperidin-3-yl)-methyl-amine | 5.15 mmol, 1.5 grams, 1 equiv. | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C)NC | C14H22N2
reactant | HCl | 0.93 ml | Cl | ClH
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | Cis-(1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine hydrochloride salt | 37.5% yield | Cl.C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C)NC | InChI=1S/C14H22N2.ClH/c1-12-8-9-16(11-14(12)15-2)10-13-6-4-3-5-7-13;/h3-7,12,14-15H,8-11H2,1-2H3;1H/t12-,14+;/m0./s1
